US06472345B2
At 0° C., 444 mg of 2,4,6-triisopropylbenzyl 2-methyl-3-oxopentanoate (1.28 mmol) are dissolved in 10 ml of F-TEDA (0.145 M in MeCN, 1.45 mmol). After equilibration for 10 minutes, 1.28 ml of catalyst C7 (0.05 M in MeCN, 0.064 mmol, 5 mol %) are added dropwise and the resulting cloudy, lemon-yellow solution is stirred at 0° C. for 25 h. The reaction mixture is taken up in water and TBME, and the organic phase is separated off, washed twice with saturated aqueous NaCl solution and concentrated in an RE. Purification of the crude product by liquid chromatography (TBME/hexane 1:25) affords 416 mg (89%) of 2,4,6-triisopropylbenzyl 2-fluoro-2-methyl-3-oxopentanoate as colourless oil with an ee of 85.6%.

reactant | 2,4,6-triisopropylbenzyl 2-methyl-3-oxopentanoate | 1.28 mmol, 444 mg | CC(C(=O)OCC1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(CC)=O | C22H34O3
reactant | F-TEDA | 1.45 mmol, 0.145 M, 10 ml | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | water | O | H2O
product | 2,4,6-triisopropylbenzyl 2-fluoro-2-methyl-3-oxopentanoate | 416 mg, 89% | FC(C(=O)OCC1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)(C(CC)=O)C | C22H33FO3
